US04337247
(I) Production of BOC-(D)-Asn-Gly-MePhe-NHNHCSNH2
In 10 ml of trifluoroacetic acid is dissolved 0.80 g of BOC-Gly-MePhe-NHNHCSNH2 and the solution is shaken for 10 minutes, concentrated, treated with ether and filtered to obtain a powder. This powder is dissolved in 10 ml of DMF, and after ice-cooling, the solution is neutralized with 0.20 ml of TEA followed by addition of 0.47 g of BOC-(D)-Asn-OH, 0.40 g of HONB and 0.45 g of DCC. The mixture is stirred for 20 hours, the precipitated DCU filtered off, the solvent distilled off and the residue dissolved in n-butanol. The solution is washed with a saturated aqueous solution of sodium hydrogen carbonate and water in that order and dried over anhydrous sodium sulfate. The solvent is distilled off and the residue is treated with ether and filtered to obtain a powder, which is further reprecipitated from methanol-ether. Yield 0.69 g; m.p. 124°-127° C.; [α]D24 -42.5° (c=1.0, DMF); Rf1 0.16.

reactant | BOC-Gly-MePhe-NHNHCSNH2 | 0.80 g | N(CC(=O)N([C@@H](CC1=CC=CC=C1)C(=O)NNC(=S)N)C)C(=O)OC(C)(C)C | C18H27N5O4S
reactant | BOC-(D)-Asn-OH | 0.47 g | N([C@H](CC(N)=O)C(=O)O)C(=O)OC(C)(C)C | C9H16N2O5
reactant | HONB | 0.40 g | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 0.45 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | BOC-(D)-Asn-Gly-MePhe-NHNHCSNH2 | N([C@H](CC(N)=O)C(=O)NCC(=O)N([C@@H](CC1=CC=CC=C1)C(=O)NNC(=S)N)C)C(=O)OC(C)(C)C | C22H33N7O6S
